US05360813
5-(2,4-Dichlorophenyl)-2-methyl-3-(4-trifluoromethylbenzenesulfonyl)-5-[(1H-1,2,4-triazol-1-yl]methyl)oxazolidine
Following the general sulfonylation procedure explained in example 1 but using 5-(2,4-dichlorophenyl)-2-methyl-5-[(1H-1,2,4-triazol-1yl]methyl)oxazolidine, obtained according to patent ES 334509/91 and 4-trifluoromethylbenzenesulfonyl chloride, the title product is obtained in similar yield as a single isomer.

reactant | 5-(2,4-dichlorophenyl)-2-methyl-5-[(1H-1,2,4-triazol-1yl]methyl)oxazolidine | ClC1=C(C=CC(=C1)Cl)C1(CNC(O1)C)CN1N=CN=C1 | C13H14Cl2N4O
reactant | 4-trifluoromethylbenzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 5-(2,4-Dichlorophenyl)-2-methyl-3-(4-trifluoromethylbenzenesulfonyl)-5-[(1H-1,2,4-triazol-1-yl]methyl)oxazolidine | ClC1=C(C=CC(=C1)Cl)C1(CN(C(O1)C)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)CN1N=CN=C1 | C20H17Cl2F3N4O3S
